Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
chlorthalidone
 
Attending: ___.
 
Chief Complaint:
Code Stroke
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Reason for Consult: Code Stroke

Neurology at bedside for evaluation after code stroke activation
within: <2> minutes  
 Time/Date the patient was last known well:  
 ___ Stroke Scale Score:  
 t-PA Administration  
 [] Yes - Time given:  
 [x] No - Reason t-PA was not given/considered: low NIHSS
 I was present during the CT scanning and reviewed the images
within 20 minutes of their completion.  
 I reviewed the benefits, risks, and contraindications to IV tPA
with the patient and/or family who consented to this treatment.  


___ Stroke Scale - Total [1]  
 1a. Level of Consciousness -  
 1b. LOC Questions -  
 1c. LOC Commands -  
 2. ___ Gaze -  
 3. Visual Fields -  
 4. Facial Palsy -  
 5a. Motor arm, left -  
 5b. Motor arm, right -  
 6a. Motor leg, left -  
 6b. Motor leg, right -  
 7. Limb Ataxia -  
 8. Sensory -  
 9. Language - 1 (only able to globe in ___ Creole, unable 
to
name ___ 
 10. ___ -  
 11. Extinction and Neglect -  

mRS: 0
GCS: 15

HPI:
___ is a ___ ___- and ___-speaking
male with a PMHx of diabetes, hypertension, hyperlipidemia, and
superior division ___ nerve palsy (followed by Dr. ___ who
presents with an episode of loss consciousness. 

He was in his USOH until 4:00am when his wife began screaming
because she had had a bad dream. He ran from the living room,
where he was sleeping, to the bedroom where she was. He recalls
running to his wife's room and sitting on a chair, but the does
not recall the subsequent events. Per his daughter, he lost
consciousness for 5 minutes (with a small amount of clear sputum
coming out of his mouth), and then he had abnormal speech for 5
minutes (using his tongue a lot; could not get words
out--daughter not sure if word-finding difficulty or mechanical
problem given that "he was using his tongue a lot"). There was 
no
associated rhythmic shaking, incontinence, head version, or eye
deviation. There was also no associated facial droop, weakness,
sensory changes, headache. Of note, for the last 3 nights, he 
has
been taking 50mg qHS of amitryptiline for insomnia (this is his
wife's medication and not prescribed to him). He last took it at
8pm on ___. 

On neuro ROS, the pt denies headache, loss of vision, blurred
vision, diplopia, dysarthria, dysphagia, lightheadedness,
vertigo, tinnitus, and hearing difficulty. Denies difficulties
producing or comprehending speech.  Denies focal weakness,
numbness, and parasthesiae. No bowel or bladder incontinence or
retention. Denies difficulty with gait.

+URI for a week
On general review of systems, the pt denies recent fever or
chills. No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation,
or abdominal pain.  No recent change in bowel or bladder habits.
No dysuria. Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
Problems  (Last Verified ___ by ___, LPN):
BENIGN PROSTATIC HYPERTROPHY                                    

GASTROESOPHAGEAL REFLUX                                         

HYPERLIPIDEMIA                                                  

OSTEOARTHRITIS                                                  

HYPERTENSION 

DIABETES

SUPERIOR DIVISION THIRD NERVE PALSY                              


Surgical History  (Last Verified ___ by ___,
LPN):
SHOULDER SURGERY                                      ___      
right                                                           

 
Social History:
___
Family History:
Relative  Status    Age Problem              Comments           
Mother    ___  ___  OLD AGE                                 

Father    ___  ___  PROSTATE CANCER                         

Sister    Living        UNKNOWN              5 sisters          

Sister    ___      UNKNOWN              4 sisters deceased 

Brother   Living                                                

Brother   ___    
 
Physical ___:
Admission Exam:
Vitals: T: 97.2 P: 72 R: 16 16  BP: 122/75 SaO2: 96RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple. No nuchal rigidity
Pulmonary: no WOB
Cardiac: regular rate, WWP
Abdomen: ND
Extremities: No C/C/E bilaterally

Neurologic:
Please see top of note for NIHSS.

-Mental Status: eyes open spontaneously at times (and at other
times, required verbal or tactile stim but exam was done at
5:00am), oriented x 2 (___). Able to relate history
with some difficulty because amnestic about events. Attentive,
able to name ___ backward without difficulty. Language is fluent
with intact repetition and comprehension. Normal prosody. There
were no paraphasic errors. Pt was able to name both high and low
frequency objects (except for glove--couldn't say in ___ but
said in ___ and for ___.  Able to read without
difficulty. Speech was not dysarthric. Able to follow both
midline and appendicular commands. Pt was able to register 3
objects and recall ___ at 5 minutes ___ with multiple choice
prompts). There was no evidence of neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3-->2 ___, R>L ptosis, limited right eye
elevation
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk and tone. No pronation, no drift. No 
orbiting
with arm roll. No adventitious movements, such as tremor, noted.
No asterixis noted.  
[___]  
 [C5] [C5] [C7] [C6] [C7]  [T1][L2] [L3] [L5] [L4] [S1][L5]  
 L 5   5    5    5    5     5   5    5    5    5    5   5 
 R 5   5    5    5    5     5   5    5    5    5    5   5

-Sensory: No deficits to light touch, pinprick, proprioception 
on
left (was having trouble sustaining level of arousal for
proprioception on right). No extinction to DSS.

-DTRs: brisk in ___, 2s in ___, 1 at Achilles. Plantar response 
was
flexor bilaterally.

-Coordination: No obvious dysmetria on FNF or HKS bilaterally 
but
patient's effort on FNF was somewhat limited/haphazard.

-Gait: deferred given mental status
Discharge Exam:
Neuro exam: MS: alert and oriented x3, intact fluency and
comprehension, intact naming and repetition
CN: pupils reactive bilaterally, right eye superior movement was
restricted, left eye eom intact, intact light touch and facial
strength bilaterally, vfftc, no visual extinction
Motor: nl tone and bulk of all four extremities
Sensory: intact light touch and pinprick of all four extremities
Reflexes: 1 biceps and patella bilaterally, toes downgoing
bilaterally
Coord: intact fnf and hs bilaterally
Gait: mildly unsteady, took a couple extra steps to the right
when walking
 
Pertinent Results:
___ 04:57AM BLOOD WBC-9.9# RBC-4.81 Hgb-14.4 Hct-44.3 
MCV-92 MCH-29.9 MCHC-32.5 RDW-13.0 RDWSD-43.8 Plt ___
___ 04:57AM BLOOD ___ PTT-26.8 ___
___ 04:57AM BLOOD UreaN-18
___ 04:46AM BLOOD Creat-1.3*
___ 04:57AM BLOOD ALT-16 AST-22 AlkPhos-66 TotBili-0.5
___ 04:57AM BLOOD cTropnT-<0.01
___ 04:57AM BLOOD Calcium-9.1 Phos-3.4 Mg-2.5
___ 04:57AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-POS*

CXR ___
Low lung volumes with bibasilar opacities, possibly representing 
atelectasis, although aspiration is not excluded in the 
retrocardiac region. 

CTA head/neck ___
1. Mild calcified and noncalcified atheromatous disease with no 
evidence of stenosis or occlusion. 

MRI brain w/o contrast ___
1. There are no infarcts. 
2. There is paranasal sinus disease with probable acute 
sinusitis. 

 
Brief Hospital Course:
Mr. ___ is a ___ yo man with a history of HTN, HLD, DM, CN3 
palsy who presented with a transient episode of decreased speech 
output and decreased responsiveness. Because of vascular risk 
factors and atherosclerosis on CTA, he was admitted to rule out 
stroke. MRI was negative for stroke. The etiology of his 
symptoms is unknown, but thought due to syncope. He was started 
on aspirin 81 mg for primary stroke prevention and should 
continue this medication indefinitely. He was continued on his 
current dose of statin.

Transitional issues:
- order echocardiogram and Holter monitor as outpatient to 
further assess for etiology of symptoms
- follow up in Neurology and with PCP
 
___ on ___:
The Preadmission Medication list is accurate and complete.
1. Simvastatin 40 mg PO QPM 
2. Ranitidine 300 mg PO DAILY 
3. Omeprazole 40 mg PO DAILY 
4. Ibuprofen 800 mg PO Q8H:PRN Headache 
5. Betamethasone Dipro 0.05% Augmented Gel 1 Appl TP DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*90 Tablet 
Refills:*3 
2.  Betamethasone Dipro 0.05% Augmented Gel 1 Appl TP DAILY  
3.  Ibuprofen 800 mg PO Q8H:PRN Headache  
4.  Omeprazole 40 mg PO DAILY  
5.  Ranitidine 300 mg PO DAILY  
6.  Simvastatin 40 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Syncope

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted with symptoms of transient difficulty speaking 
and decreased responsiveness. Your MRI did not show a stroke. 
The imaging of your blood vessels showed cholesterol disease. 
You have been started on a low dose aspirin to reduce your risk 
of stroke, and you should take this medication indefinitely or 
until directed by a neurologist. You should take your other 
medications as prescribed, and not take any medications that you 
are not specifically prescribed. The exact cause of your 
symptoms is unknown but possibly due to syncope.

You will have additional tests as an outpatient, including 
echocardiogram and heart monitoring.

You will follow up with Neurology and your PCP.

It was a pleasure caring for you.

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___